US07531532B2
2-Amino-4-(2-chloro-4-nitrophenoxy)pyridine (574 mg) was dissolved in tetrahydrofuran (10 ml) under a nitrogen atmosphere, and then triethylamine (0.602 ml) and phenyl chloroformate (0.542 ml) were added dropwise thereto while cooling in an ice bath, followed by stirring at room temperature for 10 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to provide a crude product of 4-(2-chloro-4-nitrophenoxy)-2-(phenoxycarbonylamino)pyridine (1.272 g). The crude product (637.3 mg) was dissolved in tetrahydrofuran (6.5 ml), and then pyrrolidine (1.06 ml) was added at room temperature, followed by stirring for 1 hr and evaporating the solvents under a reduced pressure. The resultant residue was dissolved in ethanol (20 ml)-water (5 ml), and then electrolytic iron powder (500 mg) and ammonium chloride (1 g) were added thereto, followed by heating under reflux for 1 hr. The reaction mixture was cooled down to room temperature, and filtered through celite to remove an insoluble portion, which was washed with ethyl acetate-tetrahydrofuran (1:1) and water. The organic layer of the filtrate was separated, washed with water and brine in this order, dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was purified by silica gel column chromatography (eluent; ethyl acetate) to provide the titled compound (227 mg) as pale yellow powder.

reactant | 2-Amino-4-(2-chloro-4-nitrophenoxy)pyridine | 574 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C11H8ClN3O3
reactant | triethylamine | 0.602 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.542 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(2-chloro-4-nitrophenoxy)-2-(phenoxycarbonylamino)pyridine | 1.272 g | ClC1=C(OC2=CC(=NC=C2)NC(=O)OC2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C18H12ClN3O5
